US04246406
Step B: (3-Amino-5-isopropylamino-6-chloropyrazinoyl)thiourea
To a stirred solution of (3-amino-5-isopropylamino-6-chloropyrazinoyl)cyanamide (6.0 g., 0.0235 mole) in pyridine (40 ml) is added triethylamine (4 ml.). The reaction mixture is heated on a steam bath for 11/2 hours while a slow stream of hydrogen sulfide gas is bubbled into the solution. The reaction mixture is cooled and added to ice-water to give 6 g. of (3-amino-5-isopropylamino-6-chloropyrazinoyl)thiourea which melts at 195° C. after recrystallization from ethanol.

reactant | (3-amino-5-isopropylamino-6-chloropyrazinoyl)cyanamide | 0.0235 mole, 6.0 g | NC=1C(=NC(=C(N1)NC(C)C)Cl)C(=O)NC#N | C9H11ClN6O
reactant | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
reactant | hydrogen sulfide | S | H2S
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | (3-Amino-5-isopropylamino-6-chloropyrazinoyl)thiourea | NC=1C(=NC(=C(N1)NC(C)C)Cl)C(=O)NC(=S)N | C9H13ClN6OS
